US08686048B2
Intermediate 80: 3′-cyclopropoxy-3-fluorobiphenyl-4-amine
The title compound (230 mg) was prepared from 4-bromo-2-fluoroaniline (1 g, 5.26 mmol) and 3-isopropoxyphenylboronic acid (1.8 g, 6.84 mmol) as a yellow liquid.

reactant | 4-bromo-2-fluoroaniline | 5.26 mmol, 1 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | 3-isopropoxyphenylboronic acid | 6.84 mmol, 1.8 g | C(C)(C)OC=1C=C(C=CC1)B(O)O | C9H13BO3
product | 3′-cyclopropoxy-3-fluorobiphenyl-4-amine | 230 mg | C1(CC1)OC=1C=C(C=CC1)C1=CC(=C(C=C1)N)F | C15H14FNO
